US07262201B1
Using a procedure analogous to that described in Example 14, 4-chloro-6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)quinazoline (350 mg, 1 mol), (prepared as described for the starting material in Example 14), was reacted with 3-(4-methoxyphenyl)-4,5-dihydro-1H-pyrazol-5-one (380 mg, 2 mol), (prepared as described for the starting material in Example 10), to give 4-(5-(4-methoxyphenyl)pyrazol-3-yloxy)-6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)quinazoline (215 mg, 43%).

reactant | 4-chloro-6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)quinazoline | 1 mol, 350 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C | C17H23ClN4O2
reactant | 3-(4-methoxyphenyl)-4,5-dihydro-1H-pyrazol-5-one | 2 mol, 380 mg | COC1=CC=C(C=C1)C1=NNC(C1)=O | C10H10N2O2
product | 4-(5-(4-methoxyphenyl)pyrazol-3-yloxy)-6-methoxy-7-(3-(4-methylpiperazin-1-yl)propoxy)quinazoline | 215 mg, 43% | COC1=CC=C(C=C1)C1=CC(=NN1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C | C27H32N6O4
